US07314884B2
Step D]: 1,1-Dimethyl-3-(5-methyl-3-phenyl-pyrazol-1-yl)-propylamine
[1,1-Dimethyl-3-(5-methyl-3-phenyl-pyrazol-1-yl)-propyl]-carbamic acid tert-butyl ester (540 mg) was treated with TFA/CH2Cl2 3:1 (20 ml) at 0° C. for 2 hours. The resulting mixture was concentrated in vacuo and the residue was diluted with ethyl acetate. The organic layer was washed with a mixture of brine/sat. Na2CO3 and brine, dried and evaporated to give a crude oil. This was purified by flash chromatography (5% to 40% gradient of MeOH in CH2Cl2, 0.5% NH4OH content) to give the title compound (349 mg) as a yellow gum.

reactant | [1,1-Dimethyl-3-(5-methyl-3-phenyl-pyrazol-1-yl)-propyl]-carbamic acid tert-butyl ester | 540 mg | C(C)(C)(C)OC(NC(CCN1N=C(C=C1C)C1=CC=CC=C1)(C)C)=O | C20H29N3O2
solvent | TFA CH2Cl2 | 20 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 1,1-Dimethyl-3-(5-methyl-3-phenyl-pyrazol-1-yl)-propylamine | 349 mg | CC(CCN1N=C(C=C1C)C1=CC=CC=C1)(C)N | C15H21N3
